US08119617B2
1.13 g of (2-nitro-benzyl)-phosphonic acid diethyl ester) in ethanol are hydrogenated with Pd—C as a catalyst for 5 hours at rt and ambient pressure. The catalyst is removed by filtration and from the filtrate obtained solvent is evaporated. (2-Amino-benzyl)-phosphonic acid diethyl ester is obtained.

reactant | (2-nitro-benzyl)-phosphonic acid diethyl ester | 1.13 g | C(C)OP(OCC)(=O)CC1=C(C=CC=C1)[N+](=O)[O-] | C11H16NO5P
solvent | ethanol | C(C)O | C2H6O
catalyst | Pd—C | [Pd] | Pd
product | (2-Amino-benzyl)-phosphonic acid diethyl ester | C(C)OP(OCC)(=O)CC1=C(C=CC=C1)N | C11H18NO3P
